US05529988
Step A. Chloromethyldimethyl-2-phenylethylsilane
To a solution of 2-phenylethylmagnesium bromide, prepared from 2-phenylethyl bromide (9.25 g, 50 mmol) and magnesium (1.34 g, 55 mmol) in tetrahydrofuran (50 ml), is added chlorochlormethyldimethylsilane (6.43 g, 45 mmol) in tetrahydrofuran (25 ml). The mixture is refluxed for 18 hours, cooled to 0° C. and hydrolyzed with 3N HCl (50 ml). The mixture is then poured in water (50 ml) and diethyl ether (50 ml), the organic layer is washed with water, brine, dried over MgSO4 and the solvents removed in vacuo. Fractional distillation affords the title compound (5.15 g, 48.5% yield).

reactant | 2-phenylethylmagnesium bromide | C1(=CC=CC=C1)CC[Mg]Br
reactant | 2-phenylethyl bromide | 50 mmol, 9.25 g | C1(=CC=CC=C1)CCBr | C8H9Br
reactant | magnesium | 55 mmol, 1.34 g | [Mg] | Mg
reactant | chlorochlormethyldimethylsilane | 45 mmol, 6.43 g | Cl[Si](C)(C)CCl | C3H8Cl2Si
reactant | HCl | 3N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | Chloromethyldimethyl-2-phenylethylsilane | 5.15 g, 48.5% yield | ClC[Si](CCC1=CC=CC=C1)(C)C | C11H17ClSi
